US07648997B2
Acetic acid (10 mL) followed by 1 M sodium cyanoborohydride in tetrahydrofuran (11.05 mL, 11.05 mmol) was added to a stirred solution of acetone O-[3-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]oxime (1.50 g, 4.42 mmol) in methanol (10 mL). The reaction was stirred overnight at room temperature and then was concentrated under reduced pressure. The residue was diluted with water (100 mL) and the pH was adjusted with solid sodium hydroxide to pH 6. The mixture was extracted with chloroform (2×100 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield 1.31 g of 1-{3-[(isopropylamino)oxy]propyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | Acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1 M | C(#N)[BH3-].[Na+]
reactant | tetrahydrofuran | 11.05 mmol, 11.05 mL | O1CCCC1 | C4H8O
reactant | acetone O-[3-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]oxime | 4.42 mmol, 1.50 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCON=C(C)C)CCC | C19H25N5O
solvent | methanol | 10 mL | CO | CH4O
product | 1-{3-[(isopropylamino)oxy]propyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.31 g | C(C)(C)NOCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C19H27N5O
